US04022897
The 2-amino-5-bromo-3-pyridinol is prepared by dissolving 110.0 g of 2-amino-3-pyridinol in 250 ml of 95% ethanol. The solution is cooled to about 5° C. and at that temperature is treated with 160 g of liquid bromine during 2 hours. The mixture is stirred for 1 hour after the addition is completed and then concentrated to give 170.6 g of 2-amino-5-bromo-3-pyridinol.

reactant | 2-amino-3-pyridinol | 110.0 g | NC1=NC=CC=C1O | C5H6N2O
reactant | bromine | BrBr | Br2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-amino-5-bromo-3-pyridinol | 170.6 g | NC1=NC=C(C=C1O)Br | C5H5BrN2O
